US07141596B2
Step 10. (2S)-2-[(Benzyloxy)carbonyl]amino-3-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)-3-methylphenyl]propanoic acid
Methyl (2S)-2-amino-3-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)-3-methylphenyl]propanoate trifluoroacetate (286 mg, 0.649 mmol) in methanol (7.0 mL) was treated with triethylamine (362 μL, 2.60 mmol) and cooled to 0° C. Benzyl chloroformate (116 μL, 0.812 mmol) was added and the solution stirred for 2 h. 2 M lithium hydroxide in water (0.81 mL) was added and the solution stirred for an additional 1 h. The reaction soluiton was acidified with 1 N HCl and extracted with ethyl acetate. The crude product was used in the next step without purification. MF=C21H22N2O7S; LCMS found for C21H23N2O7S (M+H)+: m/z=447.

reactant | Methyl (2S)-2-amino-3-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)-3-methylphenyl]propanoate trifluoroacetate | 0.649 mmol, 286 mg | FC(C(=O)O)(F)F.N[C@H](C(=O)OC)CC1=CC(=C(C=C1)C1CC(NS1(=O)=O)=O)C
reactant | triethylamine | 2.60 mmol, 362 μL | C(C)N(CC)CC | C6H15N
reactant | Benzyl chloroformate | 0.812 mmol, 116 μL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | lithium hydroxide | 2 M | [OH-].[Li+]
reactant | HCl | 1 N | Cl | ClH
solvent | methanol | 7.0 mL | CO | CH4O
solvent | water | 0.81 mL | O | H2O
product | (2S)-2-[(Benzyloxy)carbonyl]amino-3-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)-3-methylphenyl]propanoic acid | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)C1CC(NS1(=O)=O)=O)C | C21H22N2O7S
